US05219871
Preparation of methyl 4-(2-hydroxyethyl)phenylacetate
Borane-tetrahydrofuran complex (40 ml of a 1.0 molar solution in tetrahydrofuran) was added, dropwise over 10 minutes, to a solution of 4-(methoxycarbonylmethyl)phenylacetic acid (see U.S. Pat. No. 3,341,531) (7.7 g) in tetrahydrofuran (100 ml) at 0°. The mixture was allowed to warm to room temperature and stirred for 2 hours. The reaction was quenched by the addition of 2M hydrochloric acid (50 ml) then concentrated in vacuo. The residue was partitioned between dichloromethane (200 ml) and 2M hydrochloric acid (100 ml), the layers separated, and the aqueous layer extracted with dichloromethane (2×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was dissolved in ethyl acetate (100 ml) and the solution extracted with saturated aqueous sodium bicarbonate (2×100 ml). The aqueous extracts were combined, acidified with 2M hydrochloric acid (pH5) and extracted with dichloromethane (2×100 ml). The combined dichloromethane extracts were dried (MgSO4 ) and concentrated in vacuo to give the title compound as an oil, yield 2.7 g.

reactant | 4-(methoxycarbonylmethyl)phenylacetic acid | COC(=O)CC1=CC=C(C=C1)CC(=O)O | C11H12O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-(2-hydroxyethyl)phenylacetate | OCCC1=CC=C(C=C1)CC(=O)OC | C11H14O3
